### PR TITLE
[Merged by Bors] - feat: port Algebra.Group.TypeTags

### PR DESCRIPTION
**Pull request by Vtec234**
Mathlib 6eb334bd8f3433d5b08ba156b8ec3e6af47e1904

### CODE REVIEW

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 1]
```diff
@@ -0,0 +1,465 @@
...
+instance [Inhabited α] : Inhabited (Multiplicative α) :=
+  ⟨ofAdd default⟩
+
+instance [Finite α] : Finite (Additive α) :=
+  Finite.of_equiv α (by rfl)
+
+instance [Finite α] : Finite (Multiplicative α) :=
+  Finite.of_equiv α (by rfl)
+
+instance [h: Infinite α] : Infinite (Additive α) := h
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:128]: This used to be `by tauto` but it is not (?) ported yet.

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 2]
```diff
@@ -0,0 +1,465 @@
...
+  right_inv x := by
+    ext
+    rfl
+#align add_monoid_hom.to_multiplicative AddMonoidHom.toMultiplicative
+
+/-- Reinterpret `α →* β` as `additive α →+ additive β`. -/
+@[simps]
+def MonoidHom.toAdditive [MulOneClass α] [MulOneClass β] :
+    (α →* β) ≃ (Additive α →+ Additive β) where
+  toFun f := ⟨fun a => ofMul (f (toMul a)), f.2, f.3⟩
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:393]: TODO: this is currently erroring. It seems the `CoeFun` instance search for the bundled morphism fails somehow.

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 3]
```diff
@@ -0,0 +1,465 @@
...
+
+@[simp]
+theorem ofMul_mul [Mul α] (x y : α) : ofMul (x * y) = ofMul x + ofMul y := rfl
+#align of_mul_mul ofMul_mul
+
+@[simp]
+theorem toMul_add [Mul α] (x y : Additive α) : toMul (x + y) = toMul x * toMul y := rfl
+#align to_mul_add toMul_add
+
+instance Additive.addSemigroup [Semigroup α] : AddSemigroup (Additive α) :=
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:160]: Relevant [Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Relying.20on.20instance.20names/near/313593527).

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 4]
```diff
@@ -0,0 +1,481 @@
...
+
+instance [AddCommGroup α] : CommGroup (Multiplicative α) :=
+  { Multiplicative.group, Multiplicative.commMonoid with }
+
+/-- Reinterpret `α →+ β` as `Multiplicative α →* Multiplicative β`. -/
+@[simps]
+def AddMonoidHom.toMultiplicative [AddZeroClass α] [AddZeroClass β] :
+    (α →+ β) ≃ (Multiplicative α →* Multiplicative β) where
+  toFun f := {
+    toFun := fun a => toMul (f (ofMul a))
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:380]: In mathlib3 this is `toFun := fun a => ofAdd (f (toAdd a))`. This works out definitionally but has quite confusing types - we have `f: α →+ β` and `a: Multiplicative α` and `toAdd a: Additive (Multiplicative α)` and then apply `f` to that. With the version here we apply `f` to `ofMul a: α` which seems more direct. Happy to revert this in case I misunderstood something. (CC @eric-wieser / leanprover-community/mathlib#13553).

Also the `ext; rfl` proofs work as just `rfl` now which I didn't investigate but would blindly guess is due to eta for structures.

File: Mathlib/Algebra/Group/TypeTags.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Algebra/Group/TypeTags.lean:128]: Please leave porting notes in cases like this, so we have a change to restore the tactic proofs later.

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 5]
```diff
@@ -0,0 +1,481 @@
...
+instance [Inhabited α] : Inhabited (Multiplicative α) :=
+  ⟨ofAdd default⟩
+
+instance [Finite α] : Finite (Additive α) :=
+  Finite.of_equiv α (by rfl)
+
+instance [Finite α] : Finite (Multiplicative α) :=
+  Finite.of_equiv α (by rfl)
+
+instance [h: Infinite α] : Infinite (Additive α) := h
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:128]:
```suggestion
-- Porting note: the mathlib3 proof is `by tauto`
instance [h: Infinite α] : Infinite (Additive α) := h
```

File: Mathlib/Algebra/Group/TypeTags.lean [hunk 6]
```diff
@@ -0,0 +1,481 @@
...
+
+instance [h: Infinite α] : Infinite (Multiplicative α) := h
```
Comment (Vtec234) [inline Mathlib/Algebra/Group/TypeTags.lean:130]:
```suggestion
-- Porting note: the mathlib3 proof is `by tauto`
instance [h: Infinite α] : Infinite (Multiplicative α) := h
```

File: Mathlib/Algebra/Group/TypeTags.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/TypeTags.lean:382]: I don't think `toAdd` has the type you think it does. `toAdd` and `ofAdd` are about multiplicative not additive.

So this change is incorrect and the original was correct.

Comment (eric-wieser) [reply Mathlib/Algebra/Group/TypeTags.lean:382]: In general I think it's best not to try to "fix" things like this in the port. If they look wrong, open a mathlib 3 PR since that's more likely to be seen by the people who wrote it. Thanks for the ping though!

Comment (Vtec234) [reply Mathlib/Algebra/Group/TypeTags.lean]: Oh, you are absolutely right. Thanks! Those are some confusing names :)

**Comment by semorrison** [comment]
bors merge
